US08232284B2
Using 4-[(1-methyl-1H-pyrazol-3-yl)amino]quinazolin-6-ol and 3-chloro-5-[2-(1,3-dioxolan-2-yl)ethoxy]-2-fluoropyridine, and in the same manner as in Example 6-2) and 6-3) or according to a method similar to it or according to a combination thereof with an ordinary method, 5-chloro-6-({4-[(1-methyl-1H-pyrazol-3-yl)amino]quinazolin-6-yl}oxy)pyridin-3-ol (738 mg) was obtained as a pale yellow amorphous solid.

reactant | 4-[(1-methyl-1H-pyrazol-3-yl)amino]quinazolin-6-ol | CN1N=C(C=C1)NC1=NC=NC2=CC=C(C=C12)O | C12H11N5O
reactant | 3-chloro-5-[2-(1,3-dioxolan-2-yl)ethoxy]-2-fluoropyridine | ClC=1C(=NC=C(C1)OCCC1OCCO1)F | C10H11ClFNO3
product | 5-chloro-6-({4-[(1-methyl-1H-pyrazol-3-yl)amino]quinazolin-6-yl}oxy)pyridin-3-ol | 738 mg | ClC=1C=C(C=NC1OC=1C=C2C(=NC=NC2=CC1)NC1=NN(C=C1)C)O | C17H13ClN6O2
